US07687627B2
(S)-N-{3-[4-(4-methanesulfonyloxymethyl-4-hydroxy-piperidin-1-yl)-3-fluoro-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(4-hydroxymethyl-4-hydroxy-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.00 mmol) with methanesulfonyl chloride (1.20 mmol) and triethylamine (1.50 mmol) in dichloromethane (15 ml) at a temperature 0-10° C. for 4 hours and by purifying the compound by silica gel column chromatography in 80% yield.

reactant | (S)-N-{3-[4-(4-hydroxymethyl-4-hydroxy-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.00 mmol | OCC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O | C18H24FN3O5
reactant | methanesulfonyl chloride | 1.20 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.50 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (S)-N-{3-[4-(4-methanesulfonyloxymethyl-4-hydroxy-piperidin-1-yl)-3-fluoro-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 80% yield | CS(=O)(=O)OCC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O | C19H26FN3O7S
